US06642389B2
c] [5-Methyl-2-(4-trifluoromethyl-phenyl)-oxazol-4-yl]-acetonitrile
To 5.39 g of NaCN (110 mol), dissolved in 72 ml of DMSO, was added via dropping funnel a solution of 19.57 g of the above prepared 4-chloromethyl-5-methyl-2-(4-trifluoromethyl-phenyl)-oxazole in 144 ml of DMSO (slightly exothermic). The reaction mixture was then kept for 1 h at 35° C. and 40° C. for 1 night. The reaction mixture was then poured onto crashed ice/AcOEt, the organic layer washed with water and brine, dried over magnesium sulfate, and evaporated to dryness. Flash chromatography (SiO2, hexane/AcOEt=8/2) delivered 8.81 g of the title compound as light yellow crystals of mp. 85-86°.

reactant | NaCN | 110 mol, 5.39 g | [C-]#N.[Na+]
reactant | 4-chloromethyl-5-methyl-2-(4-trifluoromethyl-phenyl)-oxazole | ClCC=1N=C(OC1C)C1=CC=C(C=C1)C(F)(F)F | C12H9ClF3NO
solvent | DMSO | 72 ml | CS(=O)C | C2H6OS
solvent | DMSO | 144 ml | CS(=O)C | C2H6OS
product | [5-Methyl-2-(4-trifluoromethyl-phenyl)-oxazol-4-yl]-acetonitrile | CC1=C(N=C(O1)C1=CC=C(C=C1)C(F)(F)F)CC#N | C13H9F3N2O
